US06458780B1
A reaction was carried out in the same manner as in Example 44-b), except that 639 mg of 4-nitrobenzyl(5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate and 1.57 g of oxone were used as the starting compounds. The reaction product was purified by column chromatography on silica gel (dichloromethane:methanol=20:1 to 10:1) to give 267 mg of 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methanesulfinylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate (a mixture of diastereomers).

reactant | 4-nitrobenzyl(5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methylthioimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 639 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=C(N=C3)SC)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O6S2
reactant | oxone | 1.57 g | OOS(=O)[O-].[K+]
product | 4-nitrobenzyl (5R,6S)-6-((1R)-1-hydroxyethyl)-2-(7-methanesulfinylimidazo[5,1-b]thiazol-2-yl)-1-carbapen-2-em-3-carboxylate | 267 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C(C2)C2=CN3C(S2)=C(N=C3)S(=O)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C22H20N4O7S2
